US05013863
A mixture of 6.6 g of hypophosphorous acid (95% solution in water) and 6 g of tri-n-propyl orthoformate is treated with 0.77 ml of trifluoracetic acid. The two-phase mixture is stirred at room temperature for 48-72 hours until the reaction is complete. This can be monitored by 31P-NMR or thin layer chromatography. The reaction mixture is diluted with 200 ml of dichloromethane and washed twice with 150 ml of a saturated aqueous solution of sodium bicarbonate. After drying the dichloromethane layer over anhydrous magnesium sulphate and removal of the solvent in vacuo, a colorless oil is obtained which after distillation affords di-n-propyloxymethylphosphonous acid n-propyl ester, b.p. 45°/2×10 mbar.

reactant | hypophosphorous acid | 6.6 g | [PH2](=O)O | H3O2P
reactant | tri-n-propyl orthoformate | 6 g | C(OCCC)(OCCC)OCCC | C10H22O3
reactant | trifluoracetic acid | 0.77 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | di-n-propyloxymethylphosphonous acid n-propyl ester | C(CC)OP(O)C(OCCC)OCCC | C10H23O4P
